US08138377B2
C. Synthesis of 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-ol
To an Et2Zn solution (1.0M in hexane; 14 mL, 14 mmol) cooled to 0° C., a solution of CH2I2 (1.13 mL, 14 mmol) in CH2Cl2 (10 mL) was added. This was stirred for 5 min, then a solution of 3-(3,4-dichlorophenyl)cyclopent-2-en-1-ol (0.5 g, 2.19 mmol) in CH2Cl2 (50 mL) was added dropwise. The reaction mixture was stirred overnight then quenched with saturated aqueous NH4Cl. The reaction mixture was extracted with CH2Cl2 (3×). The combined organic phases were dried over MgSO4 and concentrated in vacuo. Purification of the crude material by silica gel chromatography using 10-30% EtOAc/Heptane as the eluting solvent gave the target compound (0.3 g, 64%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.76-0.85 (m, 1 H) 1.20-1.33 (m, 2 H) 1.65-1.77 (broad, 1 H) 1.83-1.90 (m, 1 H) 1.93-2.17 (m, 3 H) 4.64-4.73 (m, 1 H) 6.93-6.97 (m, 1 H) 7.22 (d, 1 H) 7.29-7.34 (m, 1 H).

reactant | Et2Zn | 14 mmol, 1.0M, 14 mL | [Zn](CC)CC
reactant | CH2I2 | 14 mmol, 1.13 mL | C(I)I | CH2I2
reactant | 3-(3,4-dichlorophenyl)cyclopent-2-en-1-ol | 2.19 mmol, 0.5 g | ClC=1C=C(C=CC1Cl)C1=CC(CC1)O | C11H10Cl2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(3,4-dichlorophenyl)bicyclo[3.1.0]hexan-2-ol | 0.3 g, 64% | ClC=1C=C(C=CC1Cl)C12CCC(C2C1)O | C12H12Cl2O
